US20010021713A1
a. N-[2-(Benzyloxycarbonylamino)ethoxy]phthalimide
To a solution of benzyl N-(2-hydroxyethyl)carbamate (5.9 g, 30 mmol), N-hydroxyphthalimide (4.9 g, 30 mmol), and triphenylphosphine (7.9 g, 30 mmol) in tetrahydrofuran (100 mL) was added diethyl azodicarboxylate (5.2 g, 30 mmol). The reaction mixture was stirred at room temperature overnight. Ethyl acetate (200 mL) was added, washed with saturate NaHCO3 (2×100 mL) and brine (100 mL), dried over Na2SO4, and filtered. After evaporating the filtrate, the residue was purified by flash column chromatography (methylene chloride to 4% ethyl acetate in methylene chloride) to give the title compound as a white solid (9.3 g, 91%). 1H-NMR (300 MHz, CDCl3) δ7.84 (m, 2H), 7.78 (m, 2H), 7.37 (m, 5H), 5.97 (br s, 1H), 5.14 (s, 2H), 4.27 (t, J=4.9 Hz, 2H), 3.51 (q, J=5.2 Hz, 2H).

reactant | benzyl N-(2-hydroxyethyl)carbamate | 30 mmol, 5.9 g | OCCNC(OCC1=CC=CC=C1)=O | C10H13NO3
reactant | N-hydroxyphthalimide | 30 mmol, 4.9 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 30 mmol, 7.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 30 mmol, 5.2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-[2-(Benzyloxycarbonylamino)ethoxy]phthalimide | 9.3 g, 91% | C(C1=CC=CC=C1)OC(=O)NCCON1C(C=2C(C1=O)=CC=CC2)=O | C18H16N2O5
